US08445487B2
4-(2-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)morpholine (2.76 gm) was cooled in THF to −78° C. A 2.5 M solution of n-BuLi in THF (1.5 eq) was added dropwise over 20 minutes. The reaction was stirred at −78° C. for 30 mins, after which acetone (1.56 mL) was added and the reaction was stirred over 2 hours, slowly warming to 0° C. The reaction mixture was then quenched with water and extracted with ethyl acetate. The crude product 2-(2-chloro-6-morpholino-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-8-yl)propan-2-ol was concentrated and brought up in MeOH. The THP group was then removed via General Procedure D. The reaction mixture was concentrated and the crude solid was brought up in water, filtered and collected and dried overnight to give 2.23 gm of 2-(2-chloro-6-morpholino-9H-purin-8-yl)propan-2-ol as a light yellow solid.

reactant | 4-(2-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl)morpholine | 2.76 gm | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N1CCOCC1 | C14H18ClN5O2
reactant | n-BuLi | [Li]CCCC
reactant | acetone | 1.56 mL | CC(=O)C | C3H6O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.5 eq | C1CCOC1 | C4H8O
product | 2-(2-chloro-6-morpholino-9H-purin-8-yl)propan-2-ol | 2.23 gm | ClC1=NC(=C2N=C(NC2=N1)C(C)(C)O)N1CCOCC1 | C12H16ClN5O2
